US09359352B2
Synthesis of 2-amino-1-(4-(6-(2-aminobenzo[d]oxazol-5-yl)-1,5-naphthyridin-3-yl)piperazin-1-yl)-2-methylpropan-1-one (43)
Acetyl chloride (4.3 mL, 60.5 mmol) was added to MeOH (11 mL) at 0° C., the resulting solution was stirred at 0° C. for 30 min. To this solution, tert-butyl (1-(4-(6-(2-aminobenzo[d]oxazol-5-yl)-1,5-naphthyridin-3-yl)piperazin-1-yl)-2-methyl-1-oxopropan-2-yl)carbamate (D-21) (85 mg, 0.16 mmol, 1.0 eq) was added, and the mixture was stirred at RT for 2 h. The reaction was complete based on TLC analysis. The mixture was diluted with water (20 mL), neutralized with solid Na2CO3 (about 3.5 g) to adjust pH value to 8-9, and extracted with CH2Cl2 (6×30 mL). The combined organic layer was dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo and purified by silica gel column chromatography (11% MeOH/CH2Cl2) to afford the desired product, 2-amino-1-(4-(6-(2-aminobenzo[d]oxazol-5-yl)-1,5-naphthyridin-3-yl)piperazin-1-yl)-2-methylpropan-1-one (43) (43 mg, 62.3%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ: 8.96 (s, 1H), 8.28 (d, J=8.8 Hz, 1H), 8.12-8.09 (m, 2H), 7.92 (d, J=7.6 Hz, 1H), 7.59 (s, 1H), 7.60-7.47 (m, 3H), 4.01 (m, 4H), 3.42 (m, 4H), 1.347 (s, 6H); ESI-MS m/z: 432.21[M+H]+.

reactant | Acetyl chloride | 60.5 mmol, 4.3 mL | C(C)(=O)Cl | C2H3ClO
reactant | MeOH | 11 mL | CO | CH4O
reactant | tert-butyl (1-(4-(6-(2-aminobenzo[d]oxazol-5-yl)-1,5-naphthyridin-3-yl)piperazin-1-yl)-2-methyl-1-oxopropan-2-yl)carbamate | 0.16 mmol, 85 mg, 1.0 eq | NC=1OC2=C(N1)C=C(C=C2)C=2N=C1C=C(C=NC1=CC2)N2CCN(CC2)C(C(C)(C)NC(OC(C)(C)C)=O)=O | C28H33N7O4
reactant | Na2CO3 | about 3.5 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 20 mL | O | H2O
product | 2-amino-1-(4-(6-(2-aminobenzo[d]oxazol-5-yl)-1,5-naphthyridin-3-yl)piperazin-1-yl)-2-methylpropan-1-one | 43 mg, 62.3% | NC(C(=O)N1CCN(CC1)C=1C=NC2=CC=C(N=C2C1)C=1C=CC2=C(N=C(O2)N)C1)(C)C | C23H25N7O2
